US08026257B2
3-Bromo-7-(bromomethyl)-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole.
(3-Bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methanol (198 mg, 0.48 mmol) and triphenylphosphine (253 mg, 0.96 mmol) were combined in tetrahydrofuran (3 mL) and cooled to 0° C. N-Bromosuccinimide (180 mg, 1.01 mmol) was introduced in portions and the reaction allowed to warm to room temperature. After 16 h, the reaction mixture was diluted with ethyl acetate, washed with sodium bicarbonate (2×), brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (5% ethyl acetate/hexanes) gave 140 mg (61%) as a light brown oil. 1H-NMR (CDCl3, 300 MHz) δ 7.90 (s, 1H), 7.64 (s, 1H), 5.94 (s, 2H), 4.95 (s, 2H), 3.51-3.57 (m, 2H), 0.82-0.87 (m, 2H), 0.08 (s, 9H).

reactant | (3-Bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methanol | 0.48 mmol, 198 mg | BrC=1N(N=C2C(=CC(=CC12)C(F)(F)F)CO)COCC[Si](C)(C)C | C15H20BrF3N2O2Si
reactant | triphenylphosphine | 0.96 mmol, 253 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-Bromosuccinimide | 1.01 mmol, 180 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-7-(bromomethyl)-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole | BrC=1N(N=C2C(=CC(=CC12)C(F)(F)F)CBr)COCC[Si](C)(C)C | C15H19Br2F3N2OSi
